US04871737
3[(2-Chlorophenyl)amino]-5-methyl-1H-pyrazole-4-carboxylic acid, ethyl ester.
A solution of 10.05 g (0.05 mole) of 4-(2-chlorophenyl)-3-thiosemicarbazide in 75 mL of absolute ethanol was treated with 8.48 g (0.05 mole) of ethyl 2-choroacetoacetate and stirred under nitrogen atmosphere at room temperature for 1 hr. The reaction mixture was treated with 40 mL of 2N ethanolic hydrogen chloride and heated at reflux for 1 hr, during which time the yellow slurry became a clear, deep orange solution. The characteristic insoluble amorphous sulfur was removed by filtration. The filtrate began to solidify. It was allowed to cool for approximately 16 hr to yield 10.1 g of yellow crystalline product. The filtrate was concentrated in vacuo to yield an additional 3 g of yellow product. The 2 solids were combined and recrystallized from benzene to give 10.4 g of white crystalline product, mp 188°-189° C.

reactant | 4-(2-chlorophenyl)-3-thiosemicarbazide | 0.05 mole, 10.05 g | ClC1=C(C=CC=C1)NC(NN)=S | C7H8ClN3S
reactant | ethyl 2-choroacetoacetate | 0.05 mole, 8.48 g | ClC(C(=O)OCC)C(=O)C | C6H9ClO3
reactant | hydrogen chloride | 2N, 40 mL | Cl | ClH
solvent | ethanol | 75 mL | C(C)O | C2H6O
product | 3[(2-Chlorophenyl)amino]-5-methyl-1H-pyrazole-4-carboxylic acid, ethyl ester | 10.1 g | ClC1=C(C=CC=C1)NC1=NNC(=C1C(=O)OCC)C | C13H14ClN3O2
